US04243609
A solution of 3.0 g. of tert-butyl ethyl 3-fluoro-4-(hexadecylamino)benzoylmalonate 10 ml of trifluoroacetic acid is warmed with stirring for 3 hours. The solution is poured onto ice and neutralized with potassium hydroxide. The resulting precipitate is collected by filtration, washed with water and dried. Recrystallization from chloroform affords ethyl 3-fluoro-4-(hexadecylamino)benzoylacetate.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | tert-butyl ethyl 3-fluoro-4-(hexadecylamino)benzoylmalonate | 10 ml | FC=1C=C(C(=O)C(C(=O)OC(C)(C)C)C(=O)OCC)C=CC1NCCCCCCCCCCCCCCCC | C32H52FNO5
product | ethyl 3-fluoro-4-(hexadecylamino)benzoylacetate | FC=1C=C(C(=O)CC(=O)OCC)C=CC1NCCCCCCCCCCCCCCCC | C27H44FNO3
